US06677331B2
To 200 ml of dichloromethane cooled at 0° C., 35 ml of trichlorotitanium and 40 g of methyl methanethiolsulfonate were added and the mixture was stirred at the same temperature for 20 min. The mixture was added dropwise to 1 L of nitrobenzene containing 26 g of imidazo[5,1-b]thiazole at 5 to 10° C. and stirred at the same temperature for five hr. The reaction was stopped by adding 400 ml of 0.5N hydrochloride, followed by filtration to remove insolubles. The mixture was washed with 200 ml of dichloromethane and 200 ml of water. The organic layer was removed and the aqueous layer was washed with 800 ml of dichloromethane twice. After the pH of the aqueous layer was adjusted to 4.0, the extraction three times with dichloromethane. The organic layer was dried and the solvent was removed to give 19.8 g of 7-Methylthioimidazo[5,1-b]thiazole.

reactant | methyl methanethiolsulfonate | 40 g | CSS(=O)(=O)C | C2H6O2S2
reactant | nitrobenzene | 1 L, 26 g | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | imidazo[5,1-b]thiazole | S1C=2N(C=C1)C=NC2 | C5H4N2S
reactant | hydrochloride | 0.5N, 400 ml | Cl | ClH
catalyst | trichlorotitanium | 35 ml | Cl[Ti](Cl)Cl
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 7-Methylthioimidazo[5,1-b]thiazole | 19.8 g | CSC=1N=CN2C1SC=C2 | C6H6N2S2
